US08895596B2
Step D 6-chloro-5-iodo-2-(methylthio)-1H-benzimidazole.
K2CO3 (0.22 g, 1.61 mmol), followed by iodomethane (0.1 mL, 1.61 mmol), was added to a solution of 5-chloro-6-iodo-1,3-dihydro-2H-benzimidazole-2-thione (1 g, 3.22 mmol) in acetone (20 mL) at 0° C. The reaction was stirred at rt for 1 h. Additional K2CO3 (1.61 mmol) and iodomethane (1.61 mmol) were added. The reaction was stirred at rt overnight, then the volatiles were removed and the residue was partitioned between EtOAc and water. Concentration of the EtOAc layer afforded the desired product as a white foam, which was used in the next step without further purification.

reactant | K2CO3 | 1.61 mmol, 0.22 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 1.61 mmol, 0.1 mL | IC | CH3I
reactant | 5-chloro-6-iodo-1,3-dihydro-2H-benzimidazole-2-thione | 3.22 mmol, 1 g | ClC1=CC2=C(NC(N2)=S)C=C1I | C7H4ClIN2S
reactant | K2CO3 | 1.61 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 1.61 mmol | IC | CH3I
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 6-chloro-5-iodo-2-(methylthio)-1H-benzimidazole | ClC=1C(=CC2=C(NC(=N2)SC)C1)I | C8H6ClIN2S
